Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pain
 
Major Surgical or Invasive Procedure:
ERCP w sphincterotomy and removal of stones

 
History of Present Illness:
___ with hx of CAD s/p CABG x4v in ___, history of
pacemaker implant in ___, history of asthma, on Xarelto
(presumably for PVD), hypercholesterolemia, GERD, BPH status 
post
TURP, colon cancer status post hemicolectomy in ___, s/p CCY,
chronic mid-abdominal pain presenting with 5 days of 
intermittent
abdominal pain.  He states that the pain was initially in his
lower abdomen, banding, severe, ___, but no association with
nausea or vomiting.  He denies having any fevers, shaking 
chills,
sweats. 

Of note, review of ___ records that - when seen for f/u of colon
cancer on ___, he was endorsing intermittent mid-abdominal
discomfort without N/V, melena, hematochezia. Further notes
describe chronic, lower abdominal discomfort upon waking every
morning since at least ___. 

Pt initially presented to ___ ED, where he was noted to have LFT
elevation. Specifically, WBC 6.6, Hb 15.2, Plt 149, BUN 7, Cr
1.0, ALT 511, AST 362, Alk phos 163, Tbili 5.0, Dbili 3.4, 
lipase
43, lactic acid 0.9. CT abd/pelvis revealed evidence of biliary
obstruction; pt received piperacillin/tazobactam, and was
transferred to ___ for ERCP.

In the ___ ED:
VS 96.8, ___ 158/95, 96% RA
Exam notable for abdomen distended, soft, epigastric TTP
Labs notable for WBC 7.0, Hb 15.1, Plt 137
ALT 428, AST 257, Tbili 4.1
BUN 6, Cr 1.0
INR 1.2

Imaging - ___ imaging as above

Received:
IVF

On arrival to the floor, he states that he feels tired, thirsty,
but otherwise has no concerns. 

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
CAD s/p 4v CABG in ___
s/p PPM placement ___
On Xarelto since ___ since he states his PCP did not want his
blood vessels "to get clogged up" without report of A fib, DVT,
or PE.  
Asthma
HLD
GERD
BPH s/p TURP
Colon ca - Stage IIA (pT3 N0 M0), grade 1, 0 of 10 lymph nodes
involved with invasive adenocarcinoma, right colon, status post
right
hemicolectomy with Dr. ___ with adjuvant
chemotherapy deferred

 
Social History:
___
Family History:
Reviewed and found to be not
relevant to this hospitalization/illness
 
Physical Exam:
ADMISSION EXAM
VS: ___ ___ Temp: 97.6 PO BP: 160/81 L Lying HR: 75 RR: 18
O2 sat: 96% O2 delivery: RA 
GEN: alert and interactive, comfortable, no acute distress
HEENT: pupils equal, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
CARDIOVASCULAR: Regular rate and normal perfusion 
LUNGS: normal effort without any wheezing 
GI: soft, nontender, distended, without rebounding or guarding,
no hepatomegaly appreciated 
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: cranial nerves II-XII grossly intact, strength and
sensation grossly intact
PSYCH: normal mood and affect

DISCHARGE EXAM
AVSS
NAD
NCAT
anicteric, no subglossal jaundice
RRR
CTAB
sntnd
wwp, neg edema
A&O grossly, MAEE, minimal L ptosis which pt reports is 
unchanged from baseline and which activates appropriately, CN 
II-XII intact, normal gait, SILT BUE/BLE
no rash, no jaundice
 
Pertinent Results:
ADMISSION RESULTS

___ CT abd/pelvis with contrast:
Abdomen and pelvis CT
INDICATION:  abd pain, distention.
TECHNIQUE:  Axial images of the abdomen and pelvis using IV
contrast(85 cc Isovue), with coronal and sagittal MPR images.
Radiation dose reduction techniques utilized:  Automated 
exposure
control and adjustment of mA and/or kV according to patient 
size.
 
COMPARISON:  Abdomen and pelvis CT of ___
 
FINDINGS:  Abdominal organs: There has been a cholecystectomy
which
was present previously.  Common bile duct is 11 mm in diameter
and
measured 7 mm on the last CT.  There are 3 new calcifications in
the
distal common bile duct, largest 3 mm.  There is intrahepatic
bile
duct dilation with no focal liver lesion.  There is fatty
infiltration of the pancreas.  Spleen appears normal.
 
GI/mesentery: There has been a right colectomy.  No dilated 
bowel
or
bowel wall thickening.  There are colon diverticula with no
diverticulitis.  No free fluid.
 
GU: There is cortical thinning in the kidneys and left renal
cysts.
Urinary bladder appears normal.  Prostate is normal size.
 
Vascular/retroperitoneum: Aorta and IVC appear normal.  Adrenal
glands are normal size.
 
Lower chest: Nonspecific subpleural stranding and mild
atelectasis in
the lung bases.  There are sternal wires and cardiac pacemaker.
 
Bones/soft tissues: Mild degenerative changes in the spine.
 
IMPRESSION:  3 small calculi in the distal common bile duct,
largest
3 mm, new since ___.  Common bile duct is 11 mm in
diameter,
previously 7 mm.  There is new intrahepatic bile duct dilation.

___ 02:00AM BLOOD WBC-7.0 RBC-4.69 Hgb-15.1 Hct-44.9 MCV-96 
MCH-32.2* MCHC-33.6 RDW-13.2 RDWSD-46.3 Plt ___
___ 02:00AM BLOOD Glucose-94 UreaN-6 Creat-1.0 Na-140 K-4.6 
Cl-104 HCO3-24 AnGap-12
___ 02:00AM BLOOD ALT-428* AST-257* AlkPhos-159* 
TotBili-4.1*
___ 02:00AM BLOOD Albumin-4.0 Calcium-9.7 Phos-2.0* Mg-2.0
___ 02:17AM BLOOD Lactate-1.3
___ 02:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:00AM URINE Color-Yellow Appear-Clear Sp ___

UCX neg

==========
ERCP: biliary duct deeply cannulated with sphincterotome, not 
difficult; CBD 10mm; moderately dilated L and R and intrahepatic 
branches; 2 small filling defects seen, suggestive of stones in 
CBD; biliary tree swept with 12mm balloon; 2 small stones 
successfully removed; final occlusion cholangiogram showed no 
evidence of filling defects in the CBD; excellent bile and 
contrast drainage was seen

=========
DISCHARGE RESULTS

___ 06:47AM BLOOD WBC-5.4 RBC-4.54* Hgb-14.3 Hct-43.0 
MCV-95 MCH-31.5 MCHC-33.3 RDW-13.0 RDWSD-45.0 Plt ___
___ 06:47AM BLOOD Creat-0.9 Na-143 K-3.9 HCO3-29 AnGap-10
___ 06:47AM BLOOD ALT-260* AST-98* AlkPhos-133* 
TotBili-1.7*
___ 06:47AM BLOOD Phos-2.1* Mg-1.___ with hx of CAD s/p CABG x4v in ___, history of pacemaker 
implant in ___, history of asthma, on Xarelto (presumably for 
PVD), hypercholesterolemia, GERD, BPH status post TURP, colon 
cancer status post hemicolectomy in ___, s/p CCY, chronic
mid-abdominal pain presenting with 5 days of intermittent 
abdominal pain. 

#Abdominal pain, transaminitis, hyperbilirubinemia with biliary 
obstruction: found to have choledocholithiasis. Underwent ERCP 
as above. Bilirubin trended down. Tolerated procedure well. IVF 
overnight and then tolerated diet following day.  Held on 
Xarelto for 5d given sphincterotomy. 

#CAD and presumably PVD since he is on Xarelto because he 
reports his PCP does not want his vessels "to get clogged up." 
Continued ASA, B-blocker, statin. 

#HTN - continued home meds 

#HLD - statin 

#GERD - omeprazole 

# hypophos: mild hypophosphatemia, received repletion

# etoh: pt reports drinking 10 drinks/week. Advised pt to stop 
while awaiting resolution of LFTs and to limit his drinking to 
no more than 7 drinks/week given age/comorbidities

>30 minutes spent on patient care and coordination on day of 
discharge. 

========
TRANSITIONAL ISSUES
- held home DOAC for 5d given sphincterotomy
- noted to have pleural stranding on CT, non-specific; can 
consider repeating CT in several months to ensure resolution 
versus need for further workup
- please recheck LFTs and chem 10 to ensure resolution of LFTs 
and hypophosphatemia
- continue to advise decrease in etoh

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. Losartan Potassium 25 mg PO DAILY 
4. Metoprolol Succinate XL 37.5 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
7. Rivaroxaban 20 mg PO QPM 
8. Multivitamins 1 TAB PO QPM 
9. Vitamin D 1000 UNIT PO QPM 
10. Ketoconazole Shampoo 1 Appl TP ASDIR 
11. Desonide 0.05% Cream 1 Appl TP AS DIRECTED 

 
Discharge Medications:
1.  Neutra-Phos 2 PKT PO TID Duration: 2 Doses 
RX *potassium, sodium phosphates [Phos-NaK] 280 mg-160 mg-250 mg 
2 packet by mouth three times a day Disp #*2 Packet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Desonide 0.05% Cream 1 Appl TP AS DIRECTED  
4.  Ketoconazole Shampoo 1 Appl TP ASDIR  
5.  Losartan Potassium 25 mg PO DAILY  
6.  Metoprolol Succinate XL 37.5 mg PO DAILY  
7.  Multivitamins 1 TAB PO QPM  
8.  Omeprazole 20 mg PO BID  
9.  Simvastatin 20 mg PO QPM  
10.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
11.  Vitamin D 1000 UNIT PO QPM  
12. HELD- Rivaroxaban 20 mg PO QPM  This medication was held. Do 
not restart Rivaroxaban until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you. You were admitted for 
abdominal pain with jaundice and found to have gallstones 
blocking your biliary duct. You got better with an endoscopic 
retrograde pancreatogram (ERCP) to remove the stone. 
Please follow up with your primary care provider within ___ week 
to repeat labs and ensure they have all come back to normal. 
As we discussed, you were found to have stranding around your 
pleura (the lining around your lungs), a non-specific finding 
that you should discuss with your PCP and consider repeat CT 
scan to rule out a more serious problem. 
We wish you the best in your recovery.
 
Followup Instructions:
___